US20010006969A1
4-Allylamino-2-amino-6-nitroquinazoline
After 10 ml of ammonia gas was dissolved in 50 ml of ethanol at −78° C., 15 ml of a solution of 2.40 g (9.07 mmol) of 4-allylamino-2-chloro-6-nitroquinazoline in THF was added thereto, followed by stirring overnight in a sealed tube at 70° C. 150 ml of water was added to the reaction solution, and then crystals thus precipitated were filtered out, followed by recrystallization from ethyl acetate-hexane to give 1.88 g (84.6%) of the title compound.

reactant | ammonia | 10 ml | N | H3N
reactant | 4-allylamino-2-chloro-6-nitroquinazoline | 9.07 mmol, 2.40 g | C(C=C)NC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])Cl | C11H9ClN4O2
reactant | water | 150 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | THF | C1CCOC1 | C4H8O
product | 4-Allylamino-2-amino-6-nitroquinazoline | 1.88 g, 84.6% | C(C=C)NC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])N | C11H11N5O2
